US06956049B1
1-Chloro-4-phenyl-3-butyn-2-one (245 mg, 1.37 mmol) was dissolved in DMF (1.0 mL), thiourea (126 mg, 1.66 mmol) was added, and the resulting pale brown solution was stirred at ambient temperature for 5 days. The reaction mixture was diluted with Ethyl acetate (50 mL), washed with saturated NaHCO3 solution (10 mL), water (10 mL), brine (10 mL), dried over Na2SO4, filtered, and concentrated in vacuo. The dark oil was dissolved in methanol, adsorbed onto silica gel and purified by column chromatography eluting with 4:1, 3:1, then 2:1 hexane:ethyl acetate to afford 4-(phenylethynyl)-1,3-thiazol-2-amine (56 mg, 20% yield) as an oil. 1H NMR (CDCl3, 300 MHz) δ 7.53–7.50 (m, 2H), 7.37–7.32 (m, 3H), 6.77 (s, 1H), 5.41 (br s, 2H). MS (EI ionization) 200 (M+).

reactant | 1-Chloro-4-phenyl-3-butyn-2-one | 1.37 mmol, 245 mg | ClCC(C#CC1=CC=CC=C1)=O | C10H7ClO
reactant | thiourea | 1.66 mmol, 126 mg | NC(=S)N | CH4N2S
reactant | hexane | CCCCCC | C6H14
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4-(phenylethynyl)-1,3-thiazol-2-amine | 56 mg, 20% yield | C1(=CC=CC=C1)C#CC=1N=C(SC1)N | C11H8N2S
